US06335341B1
To a solution of 1-(tert-butoxycarbonyl)-4-(formyl)piperidine (7.14 g) and 1-(2-methylpyrimidin-4-yl)piperazine dihydrochloride (8.38 g) in methanol/acetic acid (99:1) (150 ml) was added sodium cyanoborohydride (6.32 g) portionwise over 30 minutes and the resultant suspension stirred at arnbient temperature for 3 hours. The suspension was quenched by addition of saturated aqueous sodium bicarbonate solution and the resulting mixture extracted with ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The residue was purified by chromatography eluting with 5% methanol in dichloromethane to give 1-tert-butoxycarbonyl-4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylmethyl]piperidine (3.02 g) as a foam.

reactant | 1-(tert-butoxycarbonyl)-4-(formyl)piperidine | 7.14 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | 1-(2-methylpyrimidin-4-yl)piperazine dihydrochloride | 8.38 g | Cl.Cl.CC1=NC=CC(=N1)N1CCNCC1
reactant | sodium cyanoborohydride | 6.32 g | C(#N)[BH3-].[Na+]
solvent | methanol acetic acid | 150 ml | CO.C(C)(=O)O
product | 1-tert-butoxycarbonyl-4-[1-(2-methylpyrimidin-4-yl)piperazin-4-ylmethyl]piperidine | 3.02 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CCN(CC1)C1=NC(=NC=C1)C | C20H33N5O2
